US04327026
A solution of 13.0 g (40.1 mmol) of 7-acetyl-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one and 13.0 g of hydroxylamine hydrochloride in 65 ml of pyridine and 65 ml of ethanol is left to stand at room temperature for 4 hours. The mixture is taken up in methylene chloride, washed with 2 N hydrochloric acid and water, dried and evaporated. Traces of pyridine are removed by azeotropic evaporation with toluene. The residue gives, from methylene chloride/hexane, 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-2H-1,4-benzodiazepin-2-one of melting point 236°-238°.

reactant | 7-acetyl-1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 40.1 mmol, 13.0 g | C(C)(=O)C=1C=CC2=C(C(=NCC(N2CC)=O)C2=C(C=CC=C2)F)C1 | C19H17FN2O2
reactant | hydroxylamine hydrochloride | 13.0 g | Cl.NO
solvent | pyridine | 65 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-2H-1,4-benzodiazepin-2-one | C(C)N1C(CN=C(C2=C1C=CC(=C2)C(C)=NO)C2=C(C=CC=C2)F)=O | C19H18FN3O2
